US09290490B2
A solution of ethyl diazoacetate (0.266 mL, 2.179 mmol) in dichloromethane (6 mL) was added over 6 hours via syringe pump to a solution of 1-(cyclopent-3-en-1-yl)ethanone (200 mg, 1.816 mmol) and rhodium(II) acetate dimer (16.1 mg, 0.036 mmol) in dichloromethane (6 mL). After an additional 11 hours, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on silica gel (10-30% ethyl acetate/hexanes) to afford ethyl 3-acetylbicyclo[3.1.0]hexane-6-carboxylate. MS ESI calc'd. for C11H17O3 [M+H]+ 197. found 197.

reactant | ethyl diazoacetate | 2.179 mmol, 0.266 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | 1-(cyclopent-3-en-1-yl)ethanone | 1.816 mmol, 200 mg | C1(CC=CC1)C(C)=O | C7H10O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | rhodium(II) acetate dimer | 0.036 mmol, 16.1 mg | CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].CC(=O)[O-].[Rh+2].[Rh+2]
product | ethyl 3-acetylbicyclo[3.1.0]hexane-6-carboxylate | C(C)(=O)C1CC2C(C2C1)C(=O)OCC | C11H16O3
